US07964625B2
329 mmol o-toluidine and 165 mmol diethyl malonate were put together and stirred overnight at 170° C. The formed ethanol was distilled off directly on a stream of nitrogen. N1,N3-di(2-methylphenyl)malonamide was formed as one solid block. The reaction was cooled and EtOAc was added. The product had to be crushed with a mortar, because it resembled very hard brick. The crushed material was stirred in EtOAc and filtered. EtOAc added was added twice and the mixture was stirred and filtered each time. 38.1 g N1,N3-di(2-methylphenyl) malonamide (yield 82%) was obtained.

reactant | o-toluidine | 329 mmol | NC=1C(=CC=CC1)C | C7H9N
reactant | diethyl malonate | 165 mmol | C(CC(=O)OCC)(=O)OCC | C7H12O4
product | N1,N3-di(2-methylphenyl)malonamide | CC1=C(C=CC=C1)NC(CC(=O)NC1=C(C=CC=C1)C)=O | C17H18N2O2
